US08049016B2
Preparation of 4-methyl-2-(3-(2-(methylamino)-2-oxoethyl)-2-oxoimidazolidin-1-yl)thiazole-5-carboxylic acid
Following the procedure as described in Preparation 9, making variations as required to replace ethyl 2-(3-(2-(4-fluorobenzylamino)-2-oxoethyl)-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylate with ethyl 4-methyl-2-(3-(2-(methylamino)-2-oxoethyl)-2-oxoimidazolidin-1-yl)thiazole-5-carboxylate, the crude title compound was obtained.

reactant | ethyl 2-(3-(2-(4-fluorobenzylamino)-2-oxoethyl)-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylate | FC1=CC=C(CNC(CN2C(N(CC2)C=2SC(=C(N2)C)C(=O)OCC)=O)=O)C=C1 | C19H21FN4O4S
reactant | ethyl 4-methyl-2-(3-(2-(methylamino)-2-oxoethyl)-2-oxoimidazolidin-1-yl)thiazole-5-carboxylate | CC=1N=C(SC1C(=O)OCC)N1C(N(CC1)CC(=O)NC)=O | C13H18N4O4S
product | 4-methyl-2-(3-(2-(methylamino)-2-oxoethyl)-2-oxoimidazolidin-1-yl)thiazole-5-carboxylic acid | CC=1N=C(SC1C(=O)O)N1C(N(CC1)CC(=O)NC)=O | C11H14N4O4S
